US04772600
2-(4-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide-4-oxide
A mixture of 2-(4-chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide (0.3 g, 0.00096 mole), glacial acetic acid (2.5 ml), and m-chloroperbenzoic acid (0.66 g, 0.00384 mole) was heated at 60° C. for a total of 4 hrs. The reaction mixture was diluted with water and the organic acid which precipitated was filtered. The aqueous filtrate was neutralized for peroxides with 10% sodium sulfite. The aqueous solution was evaporated to dryness and the residue was dissolved in methylene chloride. The methylene chloride was extracted with a minimum of saturated sodium bicarbonate. The methylene chloride was dried and evaporated to a residue which crystallized upon standing. The solid was recrystallized from tetrahydofuran-hexanes with refrigeration overnight. The solid was collected by filtration and dried under high vacuum overnight to give 0.28 g (88%) of the title compound mp. 200°-201.5° C.

reactant | 2-(4-chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.00096 mole, 0.3 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)C | C16H15ClN4O
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | m-chloroperbenzoic acid | 0.00384 mole, 0.66 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | 2-(4-Chlorophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide-4-oxide | 0.28 g, 88% | ClC1=CC=C(C=C1)C1=NC=2C(=[N+](C=CC2)[O-])N1CC(=O)N(C)C | C16H15ClN4O2
